US05276025
Step C: Preparation of 5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno [3,2-f]-1,4-thiazepine
Sodium metal (0.46 g, 0.02 mol) was dissolved in absolute ethanol (50 mL), under a nitrogen atmosphere and 2-mercaptoethylamine (1.55 g, 0.02 mol) was added. After 10 minutes, 4-acetyl-5-chlorothiophene-2-sulfonamide (1.63 g, 0.007 mol) in dry ethanol (70 mL) was added to the reaction and the mixture refluxed for 18 hours. The reaction was cooled to room temperature and sodium borohydride (1.0 g, 0.026 mol) was added. After three hours the reaction mixture was poured into ice water and acidified with 6N HCl. The aqueous solution was extracted with ethyl acetate and the aqueous solution made basic with NaHCO3 and Na2CO3. The product was extracted into ethyl acetate, the extract was dried (Na2SO4), filtered and evaporated. The residue (1.77 g) was crystallized from ethyl acetate-methanol to give analytically pure product (1.58 g, 85%), mp 182°-185° C.

reactant | Sodium | 0.02 mol, 0.46 g | [Na] | Na
reactant | 2-mercaptoethylamine | 0.02 mol, 1.55 g | SCCN | C2H7NS
reactant | 4-acetyl-5-chlorothiophene-2-sulfonamide | 0.007 mol, 1.63 g | C(C)(=O)C=1C=C(SC1Cl)S(=O)(=O)N | C6H6ClNO3S2
reactant | sodium borohydride | 0.026 mol, 1.0 g | [BH4-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno [3,2-f]-1,4-thiazepine | 1.58 g, 85% | CC1NCCSC2=C1C=C(S2)S(N)(=O)=O | C8H12N2O2S3
